US09284284B2
b) 2-[6-((3R,6R)-5-{[Bis-(4-methoxy-phenyl)-phenyl-methyl]-amino}-3,6-dimethyl-6-trifluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-5-fluoro-pyridin-2-ylamino]-nicotinonitrile
To a solution of [bis-(4-methoxy-phenyl)-phenyl-methyl]-[(2R,5R)-5-(6-bromo-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-amine (250 mg, 0.372 mmol) in toluene (3.72 ml) was added 2-amino-3-pyridinecarbonitrile (221 mg, 1.859 mmol), Pd2(dba)3 (6.81 mg, 7.43 μmol), BINAP (9.26 mg, 0.015 mmol) and sodium tert-butoxide (50 mg, 0.520 mmol). The reaction mixture was degassed for 5 min and the microwave vial was sealed and stirred at 100° C. for 9 h. The reaction mixture was diluted with DCM and washed with water. The organic layer was dried with Na2SO4. The residue was purified by chromatography (silica gel; eluent DCM/MeOH+NH4OH) to afford the title compound.

reactant | [bis-(4-methoxy-phenyl)-phenyl-methyl]-[(2R,5R)-5-(6-bromo-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-amine | 0.372 mmol, 250 mg | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC=1[C@@](OC[C@@](N1)(C)C1=NC(=CC=C1F)Br)(C(F)(F)F)C | C33H30BrF4N3O3
reactant | 2-amino-3-pyridinecarbonitrile | 1.859 mmol, 221 mg | NC1=NC=CC=C1C#N | C6H5N3
reactant | BINAP | 0.015 mmol, 9.26 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 0.520 mmol, 50 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 3.72 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 7.43 μmol, 6.81 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-[6-((3R,6R)-5-{[Bis-(4-methoxy-phenyl)-phenyl-methyl]-amino}-3,6-dimethyl-6-trifluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-5-fluoro-pyridin-2-ylamino]-nicotinonitrile | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC1=N[C@](CO[C@]1(C(F)(F)F)C)(C)C1=C(C=CC(=N1)NC1=C(C#N)C=CC=N1)F | C39H34F4N6O3
